US04786644
A solution of 5.49 g of 2-amino-6-methylpyridine and 10.0 g of 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester in 250 ml of toluene was refluxed overnight in a soxhlet apparatus containing 10 g of 4 Å molecular sieves. Evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel: 2% ethyl acetate-dichloromethane). The resultant solution was degassed and evaporated. Recrystallization of the residue from diethyl ether yielded 5.30 g (43%) of 1,2-dihydro-4-hydroxy-N-(6-methyl-2-pyridyl)-1-phenyl-3-quinolinecarboxamide, m.p. 74°-77° C.

reactant | 2-amino-6-methylpyridine | 5.49 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester | 10.0 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydro-4-hydroxy-N-(6-methyl-2-pyridyl)-1-phenyl-3-quinolinecarboxamide | 5.30 g, 43% | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NC(=CC=C1)C | C22H19N3O2
